US07425634B2
(9a) 2,2-dimethyl-1,3-dioxan-5-ol
To a diethyl ether (150 ml) solution of 2,2-dimethyl-1,3-dioxan-5-one (15 g, 0.115 mol), lithium aluminum hydride (4.38 g, 0.115 mol) was added at 0 to 8° C. for one hour in a nitrogen atmosphere. To the reaction mixture, water (4.2 ml), a 5N aqueous sodium hydroxide solution (4.2 ml), and water (12.8 ml) were sequentially added dropwise at 0 to 10° C. The mixture was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to obtain the title compound (14.2 g, 93.4%) as a colorless oil.

reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
reactant | 2,2-dimethyl-1,3-dioxan-5-one | 0.115 mol, 15 g | CC1(OCC(CO1)=O)C | C6H10O3
reactant | lithium aluminum hydride | 0.115 mol, 4.38 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 5N, 4.2 ml | [OH-].[Na+]
solvent | water | 12.8 ml | O | H2O
solvent | water | 4.2 ml | O | H2O
product | 2,2-dimethyl-1,3-dioxan-5-ol | 14.2 g, 93.4% | CC1(OCC(CO1)O)C | C6H12O3
